US06720320B2
(S)-4-glycidyloxy-3-methylbenzo(b)furan-2-yl methyl ketone
To a suspension (60 ml) of sodium hydride (1.4 g) in DMF was added dropwise a solution (30 ml) of 4-hydroxy-3-methylbenzo(b)furan-2-yl methyl ketone (6.1 g) in DMF under ice-cooling and the mixture was stirred at room temperature for 30 min. To this reaction mixture was added dropwise under ice-cooling a solution (30 ml) of (S)-glycidyl nosylate (9.1 g) in DMF, and the mixture was stirred for 2 hr. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (3.1 g) as pale-yellow crystals.

reactant | sodium hydride | 60 ml, 1.4 g | [H-].[Na+]
reactant | 4-hydroxy-3-methylbenzo(b)furan-2-yl methyl ketone | 30 ml, 6.1 g | CC(=O)C1=C(C2=C(O1)C=CC=C2O)C | C11H10O3
reactant | (S)-glycidyl nosylate | 30 ml, 9.1 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-4-glycidyloxy-3-methylbenzo(b)furan-2-yl methyl ketone | 3.1 g | CC(=O)C1=C(C2=C(O1)C=CC=C2OC[C@@H]2CO2)C | C14H14O4
